US08981085B2
(R)-tert-Butyl pyrrolidin-3-ylcarbamate (333 mg, 1.79 mmol) was added to N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide (200 mg, 0.597 mmol) in n-BuOH (3 mL), and the reaction was stirred at 160° C. for 24 hours. The reaction was concentrated to dryness, and then the residue was purified by chromatography (SP4, C-18 25M+ column, gradient of 10-90% CH3CN/water, 30CV) to yield (R)-tert-butyl 1-(5-bromo-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (105 mg, 35.1% yield) as a solid.

reactant | (R)-tert-Butyl pyrrolidin-3-ylcarbamate | 1.79 mmol, 333 mg | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)nicotinamide | 0.597 mmol, 200 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)F | C13H8BrFN4O
reactant | CH3CN water | CC#N.O
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(nicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 105 mg, 35.1% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC=C2)=O)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C22H25BrN6O3
